US05417959
A solution of 1,1,1-tris(hydroxyethoxymethyl)ethane (6.7 g, 0.026 mol) in 35 mL of anhydrous pyridine was cooled to -10° C. Then solid p-toluenesulfonyl chloride (16.6 g, 0.087 mol) was added in portions over 1.5 hrs. The mixture was kept at -10° C. for 15 hrs. The resulting slurry was partitioned between dichloromethane (100 mL) and water (50 mL) and the layers were separated. The organic layer was washed with water (50 mL), dried over anhydrous sodium sulfate and evaporated to give a crude gum. This material was purified over silica gel using 1% methanol/dichloromethane as eluant to give 1,1,1-tris(tosylethoxymethyl)ethane (8.9 g, 0.013 mol, 47%).

reactant | 1,1,1-tris(hydroxyethoxymethyl)ethane | 0.026 mol, 6.7 g | OCCOCC(C)(COCCO)COCCO | C11H24O6
reactant | p-toluenesulfonyl chloride | 0.087 mol, 16.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | 1,1,1-tris(tosylethoxymethyl)ethane | 0.013 mol, 8.9 g, 47% | S(=O)(=O)(C1=CC=C(C)C=C1)CCOCC(C)(COCCS(=O)(=O)C1=CC=C(C)C=C1)COCCS(=O)(=O)C1=CC=C(C)C=C1 | C32H42O9S3
